US05594081
To a solution of crude ethyl 3-(2-bromophenyl)-2-ethoxycarbonyl-3-methyl-propionate (52.96 g, 168.13 mmole) in the mixture of dimethylsulfoxide (250 ml) and water (3 ml) was added lithium chloride (14 g), and the resulting mixture was heated at 150° C. for 2.5 hours. After cooling, dimethylsulfoxide was removed by distillation under reduced pressure, an aqueous sodium chloride solution was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous ammonium chloride solution, dried over magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residual concentrate was further purified by distillation to give ethyl 3-(2-bromophenyl)-3-methylpropionate (28.04 g, 65%).

reactant | ethyl 3-(2-bromophenyl)-2-ethoxycarbonyl-3-methyl-propionate | 168.13 mmole, 52.96 g | BrC1=C(C=CC=C1)C(C(C(=O)OCC)C(=O)OCC)C | C15H19BrO4
reactant | dimethylsulfoxide | 250 ml | CS(=O)C | C2H6OS
reactant | lithium chloride | 14 g | [Cl-].[Li+]
solvent | water | 3 ml | O | H2O
product | ethyl 3-(2-bromophenyl)-3-methylpropionate | 28.04 g, 65% | BrC1=C(C=CC=C1)C(CC(=O)OCC)C | C12H15BrO2
